US04578381
6 Grams of 2-amino-3-(8-methoxy-2-quinolon-5-yl)acrylic acid hydrochloride was dissolved in 100 ml of 1N-sodium hydroxide aqueous solution. To this solution was added 2 g of Raney nickel and hydrogenation was carried out at a room temperature under 3 atmospheric pressure. The catalyst was removed by filtration, the mother liquor was neutralized with acetic acid, and allowed to stand in a refrigerator, the crystals precipitated were collected by filtration. Recrystallized from water to obtain 2 g of 2-amino-3-(8-methoxy-2-quinolon-5-yl)propionic acid hydrochloride hydrate in the form of colorless powdery product.

reactant | 2-amino-3-(8-methoxy-2-quinolon-5-yl)acrylic acid hydrochloride | Cl.NC(C(=O)O)=CC1=C2C=CC(NC2=C(C=C1)OC)=O
solvent | sodium hydroxide | [OH-].[Na+]
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 2-amino-3-(8-methoxy-2-quinolon-5-yl)propionic acid hydrochloride hydrate | 2 g | O.Cl.NC(C(=O)O)CC1=C2C=CC(NC2=C(C=C1)OC)=O | InChI=1S/C13H14N2O4.ClH.H2O/c1-19-10-4-2-7(6-9(14)13(17)18)8-3-5-11(16)15-12(8)10;;/h2-5,9H,6,14H2,1H3,(H,15,16)(H,17,18);1H;1H2
